* source EE610_PROJETO_FINAL
M_M1          N14371 N14375 0 MNINV1           
V_V1         N14436 0 3V
V_VI         N14375 N15149 0Vdc
C_C1         N14371 0  155f  TC=0,0 
V_V2         N15149 0  
+PULSE 0 3 10n 0 0 10n 20n
C_C2         0 N15903  155f  TC=0,0 
V_V3         N15747 0 0Vdc
V_V4         N15855 0 3
C_C3         0 N16091  155f  TC=0,0 
M_M4         N16091 N15903 N15855 N15855 Mbreakp           
M_M6         N16091 N15903 0 0 Mbreakn           
M_M7         N15903 N15747 0 0 Mbreakn           
M_M8         N15903 N15747 N15855 N15855 Mbreakp           
